US04105790
A solution of sodium azide (32.5g.) in water (200ml.) was added to a solution of ethyl 4-(chloroacetyl)-phenylacetate (24.05g.) in methylene dichloride (200ml.). Benzyltrimethylammonium chloride (0.1g.) was added, and the bisphasic mixture was shaken for 4 hours at room temperature. The organic phase was separated, washed with distilled water (3 × 30ml.) dried and evaporated to give ethyl 4-(azidoacetyl)-phenylacetate as an oil showing a peak at 2120 cm-1 in its I.R. spectrum.

reactant | sodium azide | 32.5g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl 4-(chloroacetyl)-phenylacetate | 24.05g | ClCC(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H13ClO3
solvent | water | 200ml | O | H2O
solvent | methylene dichloride | 200ml | C(Cl)Cl | CH2Cl2
catalyst | Benzyltrimethylammonium chloride | 0.1g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | ethyl 4-(azidoacetyl)-phenylacetate | N(=[N+]=[N-])CC(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H13N3O3
